Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
Penicillins / Ciprofloxacin / Nitrofurantoin / Bactrim / Sulfa 
(Sulfonamide Antibiotics) / Iodine-Iodine Containing / 
environmental / perfume
 
Attending: ___
 
Chief Complaint:
left arm numbness, headache
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Patient is a ___ year old right handed woman with PMH of
Non-Hodgkin's lymphoma (thought to be in remission), deep venous
thrombosis (thought to be provoked by cancer hypercoaguable
state), recurrent shingles, hypertension, hyperlipidemia, and
glaucoma whom neurology has been consulted for assessment of
headache and left arm numbness. 

Patient reports that symptoms started ___ AM with gradual 
onset
feeling of mild to moderate achiness and soreness behind the 
left
ear.  There was some mild radiation to the left occipital region
and upper neck.  Patient could not wear glasses because the
pressure from the rounded portion was causing pain to the
affected area.  Patient could also not lay down because pressure
of placing head to pillow was causing pain to this area.  
Patient
denied that the pain she was experiencing was only in the 
context
of items touching this area, it was present without being 
touched
and was aggravated with being touched.    

Patient by ___ ___ had near resolution of symptoms and thought
she was OK.  Pertinently, they did not fully abate but were
minimal. 

Patient reports that ___ ___ that her same symptoms again
gradually came back. Patient's symptoms progressed over night. 
First there was additional involvement of the left frontal
temporal portion of the head and then involvement of the left
neck, shoulder, and arm.  Patient reports that there is a mild 
to
moderate headache of the left frontal temporal region and
describes it as an achiness, but cannot further describe it. 
Patient denies that there is a throbbing, pulsating, numbness,
burning, or tingling quality.  Patient then started to have
involvement of the left neck, shoulder, and arm down to the 
hand.
Patient reports that she has pain in the left neck, shoulder, 
and
upper arm that is described as a soreness.  Patient does not
think that there is anything wrong with her forearm, but says
that her entire hand feels funny and unlike the right hand.  

Patient could not sleep last night because of the above symptoms
and perhaps because of the anxiety that they were causing. 
Patient called son at 4AM to bring her to the hospital. 

Pertinently, patient never has headaches, if she does it is a
sinus headache and is located at the bridge of her nose.  

Patient has not had any problems with cognition and does not 
feel
confused.  There has been no change with vision.  Patient and 
son
both agree that her face looks like it normally looks like and
there is no slurring of her voice.  Her voice might sound a ___
weaker than normal with perhaps has a raspy quality.  No
difficulty with swallowing.  Patient, currently, denies symptoms
in trunk and left leg. 

Patient has felt alittle bit more tired than normal over the 
last
week. Uncertain why has felt more tired.  Patient denies any
trauma to her head or falls.  Patient does not think that she 
has
slept on the left side of her body.  No concern for currently 
for
infection.  No infections in the last six months.  No weight 
loss
or night sweats.  

Review of symptoms:
No chest pain.  No difficulty with breathing.  No congestion in
the chest.  No abdominal pain.  No diarrhea or constipation.  No
pain with urination.  No increase in urinary frequency.  No
rashes or swelling in the legs.  No depression or stressors in
life, everything is going well.  

 
Past Medical History:
PMH: NON-INSULIN DEPENDENT DIABETES MELLITUS                     
    
NON-HODGKIN'S LYMPHOMA                                          
H/O VTE                                                         
H/O NON-HODGKIN'S LYMPHOMA                                      
Glaucoma
Low back pain

PAST SURGICAL HISTORY
Cholecystectomy
Excision of cyst in the left hip
Excision of cyst in the left hand
Nose

PAST OB HISTORY
G5P3023
Vaginal:3

PAST GYN HISTORY
She is postmenopausal and denies any episodes of postmenopausal 
bleeding
 
Social History:
___
Family History:
Father died at ___ - heart attack 
Mother died at ___ - complications of diabetes, sepsis
Patient just lost her sister ___, she also had lymphoma ___ 

 
Physical Exam:
ADMISSION PHYSICAL EXAM
Temperature: 98.0 
Heart rate: 82 
Blood pressure: 178/83 
Respiratory rate: 18 
Oxygen saturation: 100%

General: Comfortable and in no distress 
Head: No vesicles in left ear, lots of ear wax, used qtip to
palpate inner ear and no pain
Neck: Supple with no pain to flexion or extension 
Cardio: Regular rate and rhythm, warm, no peripheral edema 
Lungs: Unlabored breathing 
Abdomen: Soft, non tender, non distended 
Skin: No vesicles in affected area.  No rashes or lesions 
MSK: No increased pain to areas affected with deep palpation
Extremities: No warmth, redness, increased girth of calves

Mental status: 
Pleasant.  Patient says name is ___, location ___ Emergency Room", month and year ___. 

Current president "man with the blonde hair (eyes roll)" and
president before him was ___.  Patient can do months of the
year backwards without error.  Patient is given three words to
remember ___, table, ___ and she is able to immediately
recall and after five minutes can recall all three without
cueing.  Patient can name all items on the stroke card.  Patient
can repeat phrase longer than 10 words without error.  Patient
can appropriately interpret cookie jar picture.  Patient can
read.  Left, right differentiation intact.  Calculations intact
(3+9=12, 3x9 = 27, 8x7 = 56).  Patient can wave at me and blow
kiss at son.  No errors in the production or use of language.  

Cranial nerves: 
Fundoscopic examination with crisp optic disks and no arterial
nicking or exudate from those that could be visualized.  PERRL 2
to 1 mm.  EOMI.  No nystagmus. No ptosis.  Patient reports
increased appreciation of pinprick in left V1 and V2 
distribution
(if right $1, left $2).  Face symmetric.  Hearing intact.  
Palate
elevates symmetrically.  Uvula midline.  SCM ___ and shoulders
sit symmetrically.  Tongue with forceful lateral excursions. 

Motor: 
Normal bulk.  Patient has no evidence of spasticity if upper
extremities or rigidity in lower extremities.  There is a
pronator drift on the left and there is orbiting around the left
arm when done quickly.  
  Delt Bic Tri WrE FFl  FE  IO  IP   Quad  Ham TA   Gastroc
L  4+   ___   5    ___     5    5   5      5     
R  5    ___   5    ___     5    5   5      5    
The left deltoid might be pain limited

Sensory: 
There is no evidence of agraphasthesia or asterognosis (she
appreciates that gauze and qtip are placed in left hand).  With
crude touch, the patient reports that the it does not feel the
same on the left side compared to the right side throughout left
side of neck, upper back, and the entirety of the left arm.  
With
pinprick, the patient reports increased appreciation at left
anterior and posterior neck, left shoulder, left medial arm, 
left
dorsal forearm, and left thumb.  The increased appreciation on
pinprick ranges from 25% to 100% more.  The left shoulder and
left medial portion of arm seem to be most affected.  The 
patient
has reduced ability to discern if finger moving toward her or
away from her throughout the left shoulder and arm and less so 
in
the forearm and fingers.  Patient with no sensory deficits in 
the
left abdomen or leg.  Patient appreciates pinprick equally in
both giant toes and appreciates even small upward and downward
excursions of giant toes. 

Reflexes:
No pectoral reflexes or cross abductors.
  Bi Tri ___ Pat Ach
L  2  2    2    1   1
R  2  2    2    1   1
Plantar response was flexor bilaterally.

Coordination: 
No intention tremor, no dysdiadochokinesia noted.
No dysmetria on FNF or HKS bilaterally.  No truncal ataxia. 

Gait: 
Good initiation. Narrow-based, normal stride and arm
swing.  Able to walk in tandem without difficulty. Romberg
absent.

DISCHARGE PHYSICAL EXAM
VS 97.4 PO 121 / 72 70 16 96 Ra 
GEN: pleasant elderly lady lying in bed, NAD
HEENT: ATNC, tenderness over L cervical paraspinal muscles, L 
upper trapezius, anterior L shoulder
CV: well-perfused, regular rate
RESP: breathing well on RA
ABD: soft, nontender
EXTR: No edema
Neuro: alert, oriented to time, place and person.  Speech and
language are normal. Cranial nerves are normal. No ptosis, 
myosis.

Motor: strength is symmetric bilaterally, although lower 
extremities ___ lifting legs off the bed. Absent ankle jerks 
bilaterally.  

Sensation: Sensation to pinprick increased on L side of face 
compared to R

Coordination: FNF intact

 
Pertinent Results:
___ 05:15AM BLOOD WBC-5.2 RBC-4.16 Hgb-13.0 Hct-37.6 MCV-90 
MCH-31.3 MCHC-34.6 RDW-13.7 RDWSD-45.1 Plt ___
___ 05:15AM BLOOD Neuts-50.0 ___ Monos-14.1* 
Eos-2.5 Baso-0.6 Im ___ AbsNeut-2.59 AbsLymp-1.68 
AbsMono-0.73 AbsEos-0.13 AbsBaso-0.03
___ 05:15AM BLOOD Glucose-112* UreaN-19 Creat-1.0 Na-139 
K-6.9* Cl-104 HCO3-20* AnGap-15
___ 09:14AM BLOOD cTropnT-<0.01
___ 05:15AM BLOOD cTropnT-<0.01
___ 05:00AM BLOOD Cholest-225*
___ 05:00AM BLOOD VitB12-721 Folate->20
___ 05:00AM BLOOD %HbA1c-5.3 eAG-105
___ 05:00AM BLOOD Triglyc-165* HDL-49 CHOL/HD-4.6 
LDLcalc-143*
___ 05:00AM BLOOD TSH-2.9
___ 05:00AM BLOOD CRP-4.4
___ 06:30AM BLOOD K-4.0

MRI HEAD WITH AND WITHOUT CONTRAST
1. No evidence for intracranial malignancy or acute intracranial 

abnormalities. 
2. Patent dural venous sinuses. 
3. Incompletely evaluated degenerative changes in the visualized 
upper 
cervical spine.  T1 hypointensity along the inferior endplate of 
C3, new 
compared to ___, most likely represents discogenic 
bone marrow 
change.  However, if clinically warranted, cervical spine MRI 
with and without 
contrast may be performed to exclude malignancy. 
  
RECOMMENDATION(S):  T1 hypointensity along the inferior endplate 
of C3, new 
compared to ___, most likely represents discogenic 
bone marrow 
change. However, if clinically warranted, cervical spine MRI 
with and without 
contrast may be performed to exclude malignancy. 

CXR
No acute intrathoracic process. 

CT HEAD WITHOUT CONTRAST
No evidence for acute intracranial abnormalities.  MRI would be 
more sensitive 
for further evaluation of neurologic symptoms, if clinically 
warranted. 

  

 
Brief Hospital Course:
Patient is a ___ year old right handed woman with PMH of
Non-Hodgkin's lymphoma (thought to be in remission), deep venous
thrombosis (thought to be provoked by cancer hypercoagulable
state), hypertension, hyperlipidemia, and glaucoma who presented 
with headache and left arm numbness. 

She has a history of intermittent left shoulder pain usually 
provoked by activity. She developed fairly severe left cervical 
high paraspinal pain after she had been doing cleaning etc 
around the house, on ___ which worsened the following day to 
involve the left upper trapezius and the left arm down to the 
wrist. Left hand tingling and weakness have resolved. Troponins 
have been negative.

On examination she has tenderness over the left cervical
paraspinal muscles, the left upper trapezius, and over the
anterior left shoulder. She has trouble with forward flexion of 
the arm, which elicits pain at the shoulder. Rotator cuff 
impingement signs are
negative. 

CBC revealed normal white count. Basic metabolic panel is
normal. Vitamin B12 and folate are normal. Hemoglobin A1c was
normal. Cholesterol was 225, triglycerides 165, LDL 143. TSH
2.9, CRP 4.4, sed rate is pending. UA was normal. Lyme is
pending at time of discharge.

MRI of the brain revealed atrophy, white matter disease,
potential discogenic disease at C3, incompletely evaluated.

Her overall picture is consistent with musculoskeletal pain. 
Although a component of cervical radiculopathy may have been 
present, the quick resolution of
symptoms argues against it. The characteristic of the pain, with 
a deep soreness, worsened by shoulder movements and neck 
movements points to musculoskeletal etiology.

TRANSITIONAL ISSUES
--------------------
[] The patient is provided with a prescription for outpatient 
physical therapy. 
[] She should receive the Shingrix the killed zoster
vaccine given her history of shingles
[] Orthopedics clinic follow up for shoulder pain.
[] She should follow up with a cardiologist for her EKG findings 
of LBBB
[] She is ordered for an outpatient MRI C-spine. These results 
will need follow up. 

 
Medications on Admission:
1. Acyclovir 400 mg PO Q12H 
2. amLODIPine 10 mg PO DAILY 
3. Vitamin D 400 UNIT PO DAILY 
4. Combigan (brimonidine-timolol) 0.2-0.5 % ophthalmic (eye) BID 

5. Lumigan 0.03% Ophth  (*NF*) 1 drop Other QHS 
6. Omeprazole 20 mg PO DAILY 
7. Multivitamins 1 TAB PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q8H:PRN Pain - Mild/Fever 
RX *acetaminophen 650 mg 1 tablet(s) by mouth every 6 hours as 
needed for pain Disp #*30 Tablet Refills:*0 
2.  Cyclobenzaprine 10 mg PO QHS:PRN shoulder pain 
RX *cyclobenzaprine 10 mg 1 tablet(s) by mouth every evening at 
bedtime as needed for pain Disp #*20 Tablet Refills:*0 
3.  Acyclovir 400 mg PO Q12H  
4.  amLODIPine 10 mg PO DAILY  
5.  Combigan (brimonidine-timolol) 0.2-0.5 % ophthalmic (eye) 
BID  
6.  Lumigan 0.03% Ophth  (*NF*) 1 drop Other QHS  
7.  Multivitamins 1 TAB PO DAILY  
8.  Omeprazole 20 mg PO DAILY  
9.  Vitamin D 400 UNIT PO DAILY  
10.Outpatient Physical Therapy
ICD10: S46.912A L shoulder musculoskeletal strain

Rx for outpatient physical therapy

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
muscle strain 
history of Non Hodgkin's lymphoma 
history of deep venous thrombosis 
hyperlipidemia 
glaucoma 
history of shingles 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms ___,

You presented to ___ because you were having 
headache and pain in your left shoulder as well as increased 
pain sensation down your left arm.

While in the hospital, most lab results were reassuring, 
although your cholesterol is quite high. Your symptoms are 
likely due to musculoskeletal strain. 

After you leave the hospital, we recommend that you follow up 
with your primary care doctor in clinic. You should also follow 
up with cardiology and consider a shingles vaccine. We also 
provided you with a prescription for outpatient physical 
therapy. You should also obtain an MRI of your spine (you will 
be contacted regarding an appointment).

We wish you the best,

Your ___ team
 
Followup Instructions:
___